US09315475B2
Step 3. (R,E)-3-(3-(4-chlorophenyl)acryloyl)-4-phenyloxazolidin-2-one
A solution of (R)-dimethyl 2-oxo-2-(2-oxo-4-phenyloxazolidin-3-yl)ethylphosphonate (60.7 g, 177.8 mmol) in dry THF (275 ml) under an atmosphere of N2 was cooled to 0° C. in an ice-water bath. Potassium tert-butoxide (23.9 g, 213.4 mmol, 1.0 M solution in THF) was added over a period of 45 min in a dropwise manner and the reaction mixture stirred at 0° C. for 30 min. A solution of 4-chlorobenzaldehyde (25.0 g, 177.84 mmol) in dry THF (100 ml) was added over a period of 20 min and the reaction mixture was stirred at ambient temperature for 16 h. The reaction mixture was cooled to 0° C. and quenched with saturated solution of ammonium chloride (250 mL) and diluted with EtOAc (1.5 L). The biphasic system was stirred at ambient temperature for 10 min and the layers were separated. The organic layer was washed with brine (250 mL), dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by SiO2 column using a gradient elution of 0-25% EtOAc in hexanes. Fractions containing product were combined and the solvents were removed in vacuo to provide the product (43.0 g, 74%) as a pale yellow solid.

reactant | (R)-dimethyl 2-oxo-2-(2-oxo-4-phenyloxazolidin-3-yl)ethylphosphonate | 177.8 mmol, 60.7 g | O=C(CP(OC)(OC)=O)N1C(OC[C@H]1C1=CC=CC=C1)=O | C13H16NO6P
reactant | Potassium tert-butoxide | 213.4 mmol, 1.0 M, 23.9 g | CC(C)([O-])C.[K+]
reactant | 4-chlorobenzaldehyde | 177.84 mmol, 25.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
solvent | THF | 275 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (R,E)-3-(3-(4-chlorophenyl)acryloyl)-4-phenyloxazolidin-2-one | 43.0 g, 74% | ClC1=CC=C(C=C1)/C=C/C(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O | C18H14ClNO3
